US06965048B2
27 g (117.7 mmol) of trans-(4-hydroxy-cyclohexyl)-methyl-carbamic acid tert-butyl ester were dissolved in 500 mL of THF and were treated with 6.8 mL of tri-n-butylphosphine and 10.5 mL (117.7 mmol) of methyl propiolate at 0° C. for 2d. Additional 2.1 mL (23 mmol, 0.2 eq) of methyl propiolate and 3.4 mL (11.8 mmol, 0.1 eq) of tri-n-butylphosphine were added. After stirring for 1 h at RT, the solution was evaporated and the crude product was purified by flash chromatography with n-heptane:EtOAc 3:1. Trituration with n-heptane yielded 26.7 g (73%) of trans-3-[4-(tert-butoxycarbonyl-methyl-amino)-cyclohexyloxy]-acrylic acid methyl ester as white solid, MS: 314 (MH+).

reactant | trans-(4-hydroxy-cyclohexyl)-methyl-carbamic acid tert-butyl ester | 117.7 mmol, 27 g | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)O)=O | C12H23NO3
reactant | tri-n-butylphosphine | 6.8 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | methyl propiolate | 117.7 mmol, 10.5 mL | C(C#C)(=O)OC | C4H4O2
reactant | methyl propiolate | 23 mmol, 2.1 mL, 0.2 eq | C(C#C)(=O)OC | C4H4O2
reactant | tri-n-butylphosphine | 11.8 mmol, 3.4 mL, 0.1 eq | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | trans-3-[4-(tert-butoxycarbonyl-methyl-amino)-cyclohexyloxy]-acrylic acid methyl ester | 26.7 g, 73% | COC(C=CO[C@@H]1CC[C@H](CC1)N(C)C(=O)OC(C)(C)C)=O | C16H27NO5
